US07320995B2
1-isopropylsulfonyl-2-amino-6-(1-(4-hydroxycyclohex-1-yl)-(phenyl)-imidazol-5-yl)-benzimidazole
Add a solution of sodium borohydride (0.28 g) in methanol (5 mL) to a solution of 1-isopropylsulfonyl-2-amino-6-(1-(cyclohexan-1-on-4-yl)-4(phenyl)-imidazol-5-yl)-benzimidazole (0.35 g, 0.7 mmol) in 10 mL tetrahydrofuran and 10 mL methanol. Stir the reaction mixture for 30 minutes at room temperature, dilute with water (50 mL), and extract with ethyl acetate (2×15 mL). Wash the combined organic extracts with saturated aqueous sodium chloride, dry over sodium sulfate, and concentrate under reduced pressure to provide 0.345 g (98%) of the title compound. MS(ES+): m/z=480.2 (M+H)+

reactant | sodium borohydride | 0.28 g | [BH4-].[Na+]
reactant | 1-isopropylsulfonyl-2-amino-6-(1-(cyclohexan-1-on-4-yl)-4(phenyl)-imidazol-5-yl)-benzimidazole | 0.7 mmol, 0.35 g | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C2=C(N=CN2C2CCC(CC2)=O)C2=CC=CC=C2)N | C25H27N5O3S
reactant | methanol | 5 mL | CO | CH4O
reactant | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 1-isopropylsulfonyl-2-amino-6-(1-(4-hydroxycyclohex-1-yl)-(phenyl)-imidazol-5-yl)-benzimidazole | 0.345 g, 98% | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C2=CN=C(N2C2CCC(CC2)O)C2=CC=CC=C2)N | C25H29N5O3S
